US09422279B2
To a solution of 2-methoxy-5-(methoxymethoxy)isonicotinaldehyde (33.5 g, 0.17 mol) in THF (150 mL) was added HCl (3 N, 250 mL). The reaction was stirred at 50° C. for 1 h, cooled to RT and diluted with water (500 mL). The mixture was neutralized to pH 7-8 with solid K2CO3. The pale yellow solid was collected, washed with water, and dried in vacuum oven (40° C.) overnight to give 5-hydroxy-2-methoxyisonicotinaldehyde (17.9 g, 74.6%). 1H NMR (400 MHz; DMSO) δ=10.31 (s, 1H), 8.03 (s, 1H), 6.89 (s, 1H), 3.80 (s, 3H); MS (ESI) m/z 154.0 [M+H]+.

reactant | 2-methoxy-5-(methoxymethoxy)isonicotinaldehyde | 0.17 mol, 33.5 g | COC=1C=C(C=O)C(=CN1)OCOC | C9H11NO4
reactant | HCl | 3 N, 250 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | 5-hydroxy-2-methoxyisonicotinaldehyde | 17.9 g, 74.6% | OC1=CN=C(C=C1C=O)OC | C7H7NO3
